data/mechanisms/records/IMS4-EQ4.5.json
{"mechanism_id": "IMS4-EQ4.5", "species": [{"species_id": "precursor", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH:4]([1H:5])[1H:6]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "vinyl_cation", "mapped_smiles": "[CH2:3]=[CH+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "dihydrogen", "mapped_smiles": "[1H:5][1H:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["precursor"]}, {"state_id": "state_products", "species_ids": ["ethyl_radical", "vinyl_cation", "dihydrogen"]}], "steps": [{"step_id": "step_three_bond_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "three_bond_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 6]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_three_bond_cleavage", "support_type": "textbook_proposed", "locator": {"page": 55, "equation": "4.5", "section": "4.4 Reaction classifications"}, "confidence": 0.8, "curator_note": "n-Butane molecular ion: simultaneous cleavage of THREE bonds gives an even-electron ion (C2H3+, vinyl cation) plus an ethyl radical and H2. The central C2-C3 bond breaks (ethyl radical), and the terminal methyl C4 loses two H (1,1) as H2 while the C3=C4 vinyl cation forms. Book draws 3 fishhook marks, one on each cleaved bond: the C2-C3 sigma bond <2,3> and the two C4-H bonds <4,5>,<4,6>. The full balanced flow needs 6 single-electron moves; the 3 extra hooks (second electron of C2-C3 -> C3=C4 pi; second electron of one C4-H -> H-H bond; and the ionisation electron of the other C4-H -> EXTERNAL) are implicit, not drawn. The saturated-alkane molecular ion has no closed integer-bond Lewis form, so the precursor SMILES is the NEUTRAL butane skeleton with charge=1/radical=1 in the species fields (EQ4.7 convention)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 58.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ion", "species_id": "vinyl_cation", "step_id": "step_three_bond_cleavage", "observed_mz": 27.0229, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
